US07671066B2
Preparation of 3-cyclopropylmethoxy-4-difluoromethoxy-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5555)
The compound was obtained starting from 3-cyclopropylmethoxy-4-difluoromethoxy -benzoyl chloride and 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone, following the procedure of Example 7.

reactant | 3-cyclopropylmethoxy-4-difluoromethoxy -benzoyl chloride | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
product | 3-cyclopropylmethoxy-4-difluoromethoxy-benzoic acid (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | ClC=1C=NC=C(C1\C=C(\C1=CC(=C(C=C1)OC)OC)/OC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O)Cl | C27H23Cl2F2NO6
